US07482487B2
tert-Butyl(4-{[(3,4-dimethoxybenzyl)amino]carbonyl}benzyl)carbamate
A mixture of 4-(tert-butoxycarbonylamino-methyl)-benzoic acid (1.0 g, 4 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (920 mg, 4.8 mmol), 1-hydroxybenzotriazole hydrate (600 mg, 4.4 mmol), 3,4-dimethoxybenzylamine (730 mg, 4.4 mmol) and N-ethyldiisopropylamine (2.5 ml, 14 mmol) in N,N-dimethylformamide (20 ml) was stirred at room temperature for 18 hours. The mixture was concentrated under reduced pressure and the residue dissolved in ethyl acetate. This solution was washed with 1N hydrochloric acid (2×), sodium bicarbonate solution (2×) and sodium chloride solution. The solution was dried over magnesium sulphate and evaporated under reduced pressure to afford the title compound as a colourless solid, 1.6 g.

reactant | 4-(tert-butoxycarbonylamino-methyl)-benzoic acid | 4 mmol, 1.0 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.8 mmol, 920 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 4.4 mmol, 600 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 3,4-dimethoxybenzylamine | 4.4 mmol, 730 mg | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | N-ethyldiisopropylamine | 14 mmol, 2.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-Butyl(4-{[(3,4-dimethoxybenzyl)amino]carbonyl}benzyl)carbamate | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C(=O)NCC1=CC(=C(C=C1)OC)OC)=O | C22H28N2O5
